US06248739B1
A flask containing 1-methyl-N-[4-(4morpholinylmethyl)phenyl]-4-piperidinamine (0.52 g) is treated with diethyl ethoxymethylenemalonate (0.55 mL). The flask is tightly capped and heated to 150° C. for 1 hour. The reaction is cooled to room temperature, treated with diethyl ethoxymethylenemalonate (0.55 mL) and heated to 180° C. for 2 hours. The reaction is cooled to room temperature and flash column chromatographed on silica eluting with 5% to 20% methanol in dichloromethane. The product-containing fractions are evaporated to give 0.75 g of diethyl 2-{[(1-methyl-4-piperidinyl)-4-(4-morpholinylmethyl)anilino]methylene}malonate as tan solid.

reactant | 1-methyl-N-[4-(4morpholinylmethyl)phenyl]-4-piperidinamine | 0.52 g | CN1CCC(CC1)NC1=CC=C(C=C1)CN1CCOCC1 | C17H27N3O
reactant | diethyl ethoxymethylenemalonate | 0.55 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diethyl ethoxymethylenemalonate | 0.55 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl 2-{[(1-methyl-4-piperidinyl)-4-(4-morpholinylmethyl)anilino]methylene}malonate | 0.75 g | CN1CCC(CC1)N(C1=CC=C(C=C1)CN1CCOCC1)C=C(C(=O)OCC)C(=O)OCC | C25H37N3O5
